US07674802B2
1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid methylamide:
To a solution of 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid hydrochloride (0.11 g, 0.25 mmol) in methylene chloride (11 mL) was added oxalyl chloride (0.12 g, 0.98 mmol) at room temperature, and stirred at room temperature for 3h. After the solvent was removed, the acid chloride was dissolved in THF and methylamine (40% in H2O, 3.8 g, 49 mmol) was added in one portion. The resulting reaction was stirred at room temperature for 3 h, and the THF was removed. The product was collected on a filter and air-dry for 8 h to provide the title compound (0.1 g, 99%). 1H NMR (400 MHz, CDCl3) δ 7.71(d, J=10.8 Hz, 1H), 7.62-7.56 (m, 3H), 7.37-7.33 (m, 1H), 7.17-7.14 (m, 2H), 7.04 (d, J=12 Hz, 2H), 5.48 (br, 1H), 4.10 (t, J=6 Hz, 2H), 3.00 (br d, J=12 Hz, 1H), 2.82 (d, J=4.8 Hz, 3H), 2.52 (t, J=6 Hz, 2H), 2.10-1.73 (m, 9H), LC/MS (APCI) m/z: 99%.

reactant | 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid hydrochloride | 0.25 mmol, 0.11 g | Cl.ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)C(=O)O)C=C1
reactant | oxalyl chloride | 0.98 mmol, 0.12 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 49 mmol, 3.8 g | CN | CH5N
solvent | methylene chloride | 11 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(3-Chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylic acid methylamide | 0.1 g, 99% | CNC(=O)C1CCN(CC1)CCCOC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1Cl | C23H27ClN4O2
